US07666868B2
B6. (E)-3-[1-(3-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide
A mixture of 6.1 g (E)-3-[1-(3-bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylic acid with 300 ml DMF and 2.6 g HOBt.H2O and 24.0 ml triethylamine is stirred at ambient temperature for 0.5 h. Then 9.8 g EDC.HCL is added and the suspension is stirred again at ambient temperature for 0.5 h. After that 2.0 g O-(tetrahydro-2H-pyran-2-yl)hydroxylamine are added and the suspension is stirred at ambient temperature for 24 h. The DMF is evaporated and the residue is extracted with ethyl acetate and water. The organic layer is dried over sodium sulfate. The title compound is isolated by flash chromatography. By this method 6.3 g of a yellow foam are obtained.

reactant | (E)-3-[1-(3-bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylic acid | 6.1 g | BrC=1C=C(C=CC1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)O | C13H10BrNO4S
reactant | DMF | 300 ml | CN(C)C=O | C3H7NO
reactant | HOBt | 2.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 2.0 g | O1C(CCCC1)ON | C5H11NO2
solvent | EDC | 9.8 g
solvent | triethylamine | 24.0 ml | C(C)N(CC)CC | C6H15N
solvent | H2O | O | H2O
product | (E)-3-[1-(3-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | BrC=1C=C(C=CC1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C18H19BrN2O5S
